US04400509
1-trimethylsilyloxybutane
To a solution of one of the catalysts mentioned in the table below in 15 ml of dichloromethane, a solution of 1.48 g (20.0 mmoles) of butanol-1 in 10 ml of dichloromethane was added and this mixture was heated to reflux 2.50 ml (12.0 mmoles) of hexamethyldisilazane were added and the time (t) in which half of the calculated amount of ammonia was evolved was measured. Further details are to be found in the following table.

reactant | butanol-1 | 20.0 mmoles, 1.48 g | CCCCO | C4H10O
reactant | hexamethyldisilazane | 12.0 mmoles, 2.50 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonia | N | H3N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-trimethylsilyloxybutane | C[Si](OCCCC)(C)C | C7H18OSi
